US04460599
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-allylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
To a solution of 100 mg (0.275 mmol) of N-methylmitomycin A in 15 ml of anhydrous methanol, 58 mg (1 mmol) of allylamine was added with stirring. The reaction mixture was stirred overnight, whereupon TLC indicated the absence of starting material. The solvent was then evaporated under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the colum with ethyl acetate was evaporated to dryness. Recrystallization from a mixture of ethyl acetate and hexane gave 38.5 mg (38% yield) of the desired product as purple-colored crystals having a melting point of 70°-71° C. (decomposing) and providing the following analysis:

reactant | N-methylmitomycin A | 0.275 mmol, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4C)OC | C17H21N3O6
reactant | allylamine | 1 mmol, 58 mg | C(C=C)N | C3H7N
solvent | methanol | 15 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-allylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 38.5 mg, 38% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCC=C)C)=O)CC1C2N1C)OC | InChI=1S/C18H23N3O4.CH3NO2/c1-5-6-19-13-9(2)15(23)14-12(16(13)24)10(8-22)18(25-4)17-11(20(17)3)7-21(14)18;2-1(3)4/h5,10-11,17,19,22H,1,6-8H2,2-4H3;2H2,(H,3,4)
